US07473694B2
Synthesis of (6-ally-5-chloropyrazolo[1,5-a]pyrimidin-7-yl)(4 ethoxyphenyl)amine
To an isopropanol (52 mL) solution containing 6-allyl-5,7-dichloropyrazolo[1,5-a]pyrimidine (5.98 g), triethylamine (12.7 mL) and phenethidine (4.30 g) were added, and this mixture was stirred at 40° C. for 5 hr. After the reaction, the solvent was distilled off. Saturated aqueous sodium hydrogen carbonate was added to the residue, and the mixture was extracted with ethyl acetate. The combined ethyl acetate layer was dried over sodium sulfate. After the sodium sulfate was filtered off, the filtrate was concentrated to obtain the title compound (8.62 g).

reactant | isopropanol | 52 mL | C(C)(C)O | C3H8O
reactant | 6-allyl-5,7-dichloropyrazolo[1,5-a]pyrimidine | 5.98 g | C(C=C)C=1C(=NC=2N(C1Cl)N=CC2)Cl | C9H7Cl2N3
reactant | phenethidine | 4.30 g | CCOC1=CC=C(C=C1)N | C8H11NO
solvent | triethylamine | 12.7 mL | C(C)N(CC)CC | C6H15N
product | (6-ally-5-chloropyrazolo[1,5-a]pyrimidin-7-yl)(4 ethoxyphenyl)amine | 8.62 g | C(C=C)C=1C(=NC=2N(C1NC1=CC=C(C=C1)OCC)N=CC2)Cl | C17H17ClN4O
